US07671066B2
Preparation of 3-cyclopropylmethoxy-4-difluoromethoxybenzoyl chloride (5)
Thionyl chloride (25 ml, 344 mmol) was added dropwise to a solution of 3-cyclopropylmethoxy-4-difluoromethoxybenzoic acid (12 g, 48 mmol) in toluene (100 ml) and the reaction mixture was heated to reflux for 2 hours, then the solvent was evaporated to dryness under vacuum and the residue was used without further purification (13.2 g, 48 mmol, 100% yield).

reactant | Thionyl chloride | 344 mmol, 25 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-cyclopropylmethoxy-4-difluoromethoxybenzoic acid | 48 mmol, 12 g | C1(CC1)COC=1C=C(C(=O)O)C=CC1OC(F)F | C12H12F2O4
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-cyclopropylmethoxy-4-difluoromethoxybenzoyl chloride | 100% yield | C1(CC1)COC=1C=C(C(=O)Cl)C=CC1OC(F)F | C12H11ClF2O3
